US07108895B2
A reaction was carried out in the same manner as in second step of Example 4-3 except that 3.08 g (10.9 mmol) of 4-bromophenyl sulfur pentafluoride [Br-Ph-SF5] was employed instead of 1-bromo-3,5-difluorobenzene in second step of Example 4-3 and 3.00 g (10.9 mmol) of (R)-2,6-difluoro-4-(2-phenylpropyl)phenylboric acid [H-Ph-CH(CH3)—CH2-PhFF-B(OH)2] obtained in third step of Example 4-5 was employed instead of (R)-4-(2-phenylpropyl)phenylboric acid [H-Ph-CH(CH3)—CH2-Ph-B(OH)2] to obtain 2.03 g (4.67 mmol) of (R)-4-(2,6-difluoro-4-(2-phenylpropyl)phenyl)phenyl sulfur pentafluoride [H-Ph-CH(CH3)—CH2-PhFF-Ph-SF5] (yield: 43%). MS m/e: 434(M+)

reactant | 4-bromophenyl sulfur pentafluoride | 10.9 mmol, 3.08 g | BrC1=CC=C(C=C1)S(F)(F)(F)(F)F | C6H4BrF5S
reactant | (R)-2,6-difluoro-4-(2-phenylpropyl)phenylboric acid | 10.9 mmol, 3.00 g | FC1=C(C(=CC(=C1)C[C@@H](C)C1=CC=CC=C1)F)OB(O)O | C15H15BF2O3
reactant | (R)-4-(2-phenylpropyl)phenylboric acid | C1(=CC=CC=C1)[C@@H](CC1=CC=C(C=C1)OB(O)O)C | C15H17BO3
product | (R)-4-(2,6-difluoro-4-(2-phenylpropyl)phenyl)phenyl sulfur pentafluoride | 4.67 mmol, 2.03 g, yield: 43% | FC1=C(C(=CC(=C1)C[C@@H](C)C1=CC=CC=C1)F)C1=CC=C(C=C1)S(F)(F)(F)(F)F | C21H17F7S
